US05110815
N-[5,6,7,8-Tetrahydro-5-methyl-2-(phenylmethoxy)-5-quinolinyl]acetamide
Conc sulfuric acid (70 ml) was added dropwise over 45 mins to a solution of 5,6,7,8-tetrahydro-5-hydroxy-5-methyl-2-(phenylmethoxy)quinoline (14.0 g) and acetonitrile (200 ml) at 0° C. The solution was stirred at room temperature for 18 hrs, poured over ice, and basified to pH 8 with 50% sodium hydroxide solution. The aqueous phase was extracted with ethyl acetate, and the combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was purified by colmn chromatography (silica gel, elution with ethyl acetate). The appropriate fractions were collected and evaporated. Recrystallization (twice) of the residue from ethyl acetate/hexanes gave 2.60 g (16%) of product, mp 153°-154° C.

reactant | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5,6,7,8-tetrahydro-5-hydroxy-5-methyl-2-(phenylmethoxy)quinoline | 14.0 g | OC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)C | C17H19NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[5,6,7,8-Tetrahydro-5-methyl-2-(phenylmethoxy)-5-quinolinyl]acetamide | 2.60 g, 16% | CC1(C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1)NC(C)=O | C19H22N2O2
